US07504412B2
2,3-Dimethyl-6-nitroimidazo[1,2-a]pyridine
Operations similar to Production Example 1-(2) were conducted using 3-bromo-2-butanone and 2-amino-5-nitropyridine. The solid whereupon obtained was suspended in ethyl acetate, and washed with saturated aqueous sodium hydrogencarbonate. After concentration under reduced pressure, the residue was recrystallized from ethanol to provide the title compound as yellow crystals.

reactant | 3-bromo-2-butanone | BrC(C(C)=O)C | C4H7BrO
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dimethyl-6-nitroimidazo[1,2-a]pyridine | CC=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C9H9N3O2
